US07951795B2
N-[(7R)-9-(2,2-Dimethylpropyl)-8-oxo-3,6,7,8,9,10-hexahydroazepino[3,4-e]indazol-7-yl]-3-methyl-2,5-dioxo-3′,4′-dihydro-1′H-spiro[imidazolidine-4,2′-naphthalene]-6′-carboxamide
A mixture of 7-(R)-amino-9-(2,2-dimethylpropyl)-6,7,9,10-tetrahydro-3H-2,3,9-triazacyclohepta[e]inden-8-one bis-methanesulfonate (110 mg, 0.23 mmol) [Chaturvedula et al. WO 2006/052378], (±)-3-methyl-2,5-dioxo-3′,4′-dihydro-1′H-spiro[imidazolidine-4,2′-naphthalene]-6′-carboxylic acid (77 mg, 0.28 mmol) [Bell et al. WO 2004/082605], HOBT (43 mg, 0.28 mmol), and EDC (54 mg, 0.28 mmol) in DMF (2 mL) is stirred at ambient temperature for 18 h. The reaction mixture is purified directly by HPLC using a reversed phase C18 column and eluting with a gradient of H2O:CH3CN:CF3CO2H-90:10:0.1 to 5:95:0.1. The pure, product-containing fractions are combined and made basic with saturated aqueous NaHCO3. The resulting mixture is extracted with EtOAc (2×20 mL), and the combined organic extracts are washed with brine, dried over Na2SO4, filtered, and concentrated in vacuo to provide the title compound.

reactant | 7-(R)-amino-9-(2,2-dimethylpropyl)-6,7,9,10-tetrahydro-3H-2,3,9-triazacyclohepta[e]inden-8-one bis-methanesulfonate | 0.23 mmol, 110 mg | CS(=O)(=O)O.CS(=O)(=O)O.N[C@@H]1CC2=C(C=3C=NNC3C=C2)CN(C1=O)CC(C)(C)C
reactant | (±)-3-methyl-2,5-dioxo-3′,4′-dihydro-1′H-spiro[imidazolidine-4,2′-naphthalene]-6′-carboxylic acid | 0.28 mmol, 77 mg | CN1C(NC(C12CC1=CC=C(C=C1CC2)C(=O)O)=O)=O | C14H14N2O4
reactant | HOBT | 0.28 mmol, 43 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 0.28 mmol, 54 mg
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | N-[(7R)-9-(2,2-Dimethylpropyl)-8-oxo-3,6,7,8,9,10-hexahydroazepino[3,4-e]indazol-7-yl]-3-methyl-2,5-dioxo-3′,4′-dihydro-1′H-spiro[imidazolidine-4,2′-naphthalene]-6′-carboxamide | CC(CN1CC=2C=3C=NNC3C=CC2C[C@H](C1=O)NC(=O)C=1C=C2CCC3(CC2=CC1)N(C(NC3=O)=O)C)(C)C | C30H34N6O4
